US07576135B2
2-oxo-2-(pyridin-4-ylamino)acetic acid methyl ester
In a manner similar to that employed in Referential Example 242, the title compound was prepared from 4-aminopyridine and methyl chlorooxoacetate.

reactant | 4-aminopyridine | NC1=CC=NC=C1 | C5H6N2
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
product | 2-oxo-2-(pyridin-4-ylamino)acetic acid methyl ester | COC(C(NC1=CC=NC=C1)=O)=O | C8H8N2O3
